US08431695B2
Preparation of 5-(3-benzyloxyphenyl)-7-{1-[(dimethylamino) acetyl]piperidin-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 342 and using 5-(3-benzyloxyphenyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and N,N-dimethylglycine as starting material, 20 mg (24%) of the desired product was isolated. 1H NMR (400 MHz, DMSO-d6) δ 7.90 (s, 1H), 7.45-7.30 (m, 6H), 7.10 (s, 1H), 7.05-6.97 (m, 2H), 6.56 (s, 1H), 5.13 (s, 2H), 4.48-4.42 (m, 1H), 4.18-4.12 (m, 1H), 3.41-3.32 (m, 3H), 3.20-3.10 (m, 2H), 3.05-2.97 (m, 1H), 2.76-2.68 (m, 1H), 2.16 (s, 6H), 2.06-1.98 (m, 2H); LC-MS m/z [M+H]+ 485.3, RT 2.32 min.

reactant | 5-(3-benzyloxyphenyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H25N5O
reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 5-(3-benzyloxyphenyl)-7-{1-[(dimethylamino) acetyl]piperidin-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 20 mg, 24% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)C(CN(C)C)=O | C28H32N6O2
